US05356558
1-Bromo-4-propylbenzene (60 g), 3-methyl-1-butyne-3-ol (38 g), triphenylphosphine (1.3 g) and bis(triphenylphosphine)palladium(II) chloride (0.7 g) were dissolved in triethylamine (260 ml) under nitrogen atmosphere, and then copper(I) iodide (0.2 g) was added thereto. The mixture was stirred at room temperature for 1 hour, and then further stirred at 90° C. for 5 hours. The resulting precipitated crystals were filtered, and then triethylamine was distilled off, followed by extraction with chloroform. The resultant was washed twice with 10% hydrochloric acid, and further with water twice, followed by distilling off chloroform therefrom. The residue was purified by the use of silica gel-chloroform column chromatography to give 3-methyl-1-(4'-propylphenyl)-1-butyne-3-ol (37 g).

reactant | 1-Bromo-4-propylbenzene | 60 g | BrC1=CC=C(C=C1)CCC | C9H11Br
reactant | 3-methyl-1-butyne-3-ol | 38 g | CC(C#C)(C)O | C5H8O
solvent | triethylamine | 260 ml | C(C)N(CC)CC | C6H15N
catalyst | bis(triphenylphosphine)palladium(II) chloride | 0.7 g | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
catalyst | copper(I) iodide | 0.2 g | [Cu]I
catalyst | triphenylphosphine | 1.3 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
product | 3-methyl-1-(4'-propylphenyl)-1-butyne-3-ol | 37 g | CC(C#CC1=CC=C(C=C1)CCC)(C)O | C14H18O
